US07790756B2
Potassium tert-butoxide (3.5 g, 0.031 mol) was added to a solution of 4-amino-3-fluoro-2-methylphenol (4.2 g, 0.03 mol) in DMAc and the resultant mixture was stirred for 30 min at RT. To this mixture was added a solution of 2,4-dichloropyridine (4.38 g, 0.03 mol) in DMAc and the mixture was heated at 100° C. overnight. The reaction mixture was concentrated in vacuo and the residue was dissolved in ethyl acetate (200 mL) and filtered through silica gel, washing forward with EtOAc. The filtrate was concentrated and purified by silica gel chromatography to give 4-(2-chloropyridin-4-yloxy)-2-fluoro-3-methylbenzenamine (3.2 g, 42% yield). 1H NMR (300 MHz, DMSO-d6) δ 8.21 (d, J=6.0 Hz, 1H), 6.84 (s, 1H), 6.81 (dd, J=5.6, 2.4 Hz, 1H), 6.67 (m, 2H), 5.12 (s, 2H), 1.91 (s, 3H); MS (ESI) m/z 253.1 [M+H]+.

reactant | Potassium tert-butoxide | 0.031 mol, 3.5 g | CC(C)([O-])C.[K+]
reactant | 4-amino-3-fluoro-2-methylphenol | 0.03 mol, 4.2 g | NC1=C(C(=C(C=C1)O)C)F | C7H8FNO
reactant | 2,4-dichloropyridine | 0.03 mol, 4.38 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
solvent | DMAc | CC(=O)N(C)C | C4H9NO
product | 4-(2-chloropyridin-4-yloxy)-2-fluoro-3-methylbenzenamine | 3.2 g, 42% yield | ClC1=NC=CC(=C1)OC1=C(C(=C(C=C1)N)F)C | C12H10ClFN2O
